* NekoSpice v0.1 example: RC low-pass transient response
V1 in 0 PULSE(0 1 0 1n 1n 1u 2u)
R1 in out 1k
C1 out 0 1n
.tran 10n 10u
.control
set filetype=ascii
run
wrdata waveform.csv time v(in) v(out)
.endc
.end

